US06060508
0.55 mg of 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran and 100 ml of a 0.1N solution of hydrochloric acid in isopropanol are placed in a 100 ml round-bottom flask. The salt is concentrated under vacuum and recrystallized from ethyl acetate. 0.561 g of 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran hydrochloride is obtained. M.p.=160-161° C.

reactant | 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran | 0.55 mg | CC=1OC2=C(C1C)C=CC=C2C(CO)N(CC)CC | C16H23NO2
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran hydrochloride | 0.561 g | Cl.CC=1OC2=C(C1C)C=CC=C2C(CO)N(CC)CC | InChI=1S/C16H23NO2.ClH/c1-5-17(6-2)15(10-18)14-9-7-8-13-11(3)12(4)19-16(13)14;/h7-9,15,18H,5-6,10H2,1-4H3;1H
